US08664401B2
Step E) (2R)-4-[4-(2-fluoro-4-hydroxy-3-methylphenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
(2R)-4-{-4-[2-fluoro-3-methyl-4-(tetrahydro-2H-pyran-2-yloxy)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (335 mg, 0.58 mmol) was dissolved in 3 mL of dioxane. To this solution was added 1 mL of 4M HCl in dioxane 1 mL of water. The resulting solution was stirred at RT for 10 minutes. The material was diluted up with methanol and concentrated (3×). Dichloromethane was added and the mixture was stirred for 18 h. The solution retained color and a fine particulate was suspended. The mixture was filtered leaving 13.3 mg (6%) of white solid. LCMS m/z 413.6 (M+1) 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.71 (s, 3H) 2.14 (d, J=1.56 Hz, 3H) 2.33-2.46 (m, 1H) 2.54-2.68 (m, 1H) 3.10 (s, 3H) 3.91-4.05 (m, 1H) 4.24-4.40 (m, 1H) 6.70 (d, J=8.59 Hz, 1H) 6.75-6.86 (m, 2H) 7.23 (t, J=8.68 Hz, 1H) 7.75 (d, J=6.83 Hz, 1H)

reactant | (2R)-4-{-4-[2-fluoro-3-methyl-4-(tetrahydro-2H-pyran-2-yloxy)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.58 mmol, 335 mg | FC1=C(C=CC(=C1C)OC1OCCCC1)C1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C28H37FN2O8S
reactant | HCl | 4M, 1 mL | Cl | ClH
reactant | water | O | H2O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | (2R)-4-[4-(2-fluoro-4-hydroxy-3-methylphenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 13.3 mg, 6% | FC1=C(C=CC(=C1C)O)C1=CC(N(C=C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O | C18H21FN2O6S
